### PR TITLE
[Merged by Bors] - feat: dot notation for `IsTheta.add_isLittleO`, and `add_comm`ed variants

### PR DESCRIPTION
**Pull request by llllvvuu**
BREAKING CHANGE: Change `IsTheta.add_isLittleO` into a dot-notation statement, in line with the existing `IsBigO.add_isLittleO`. Move the current `IsTheta.add_isLittleO` statement to `IsLittleO.right_isTheta_add'`, in line with the existing `IsLittleO.right_isBigO_add`.

feat: Add `add_comm`ed variants of related lemmas.

These changes smoothen the flow when proving e.g.
`a + b + c + d + e + f =Θ[l] d`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Asymptotics/Asymptotics.lean [hunk 1]
```diff
@@ -1125,6 +1125,9 @@ theorem IsBigO.add_isLittleO (h₁ : f₁ =O[l] g) (h₂ : f₂ =o[l] g) : (fun
   h₁.add h₂.isBigO
 #align asymptotics.is_O.add_is_o Asymptotics.IsBigO.add_isLittleO
 
+theorem IsBigO.isLittleO_add (h₁ : f₁ =O[l] g) (h₂ : f₂ =o[l] g) : (fun x => f₂ x + f₁ x) =O[l] g :=
```
Comment (urkud) [inline Mathlib/Analysis/Asymptotics/Asymptotics.lean:1128]: We already have `IsLittleO.add_isBigO`, why add this version?

File: Mathlib/Analysis/Asymptotics/Asymptotics.lean [hunk 2]
```diff
@@ -2137,6 +2140,11 @@ theorem IsLittleO.right_isBigO_add {f₁ f₂ : α → E'} (h : f₁ =o[l] f₂)
   ((h.def' one_half_pos).right_le_add_of_lt_one one_half_lt_one).isBigO
 #align asymptotics.is_o.right_is_O_add Asymptotics.IsLittleO.right_isBigO_add
 
+theorem IsLittleO.left_isBigO_add {f₁ f₂ : α → E'} (h : f₂ =o[l] f₁) :
+    f₁ =O[l] (f₁ + f₂) := by
+  rewrite [add_comm]
+  exact h.right_isBigO_add
```
Comment (urkud) [inline Mathlib/Analysis/Asymptotics/Asymptotics.lean:2146]: Here `right` in the original lemma refers to the fact that `f₁` that appeared on the right in the assumption now appears before `=O[l]`. I would call your lemma `right_isBigO_add'`.

File: Mathlib/Analysis/Asymptotics/Asymptotics.lean (hunk 1 above)
Comment (llllvvuu) [reply Mathlib/Analysis/Asymptotics/Asymptotics.lean]: removed

File: Mathlib/Analysis/Asymptotics/Asymptotics.lean [hunk 3]
```diff
@@ -2137,6 +2137,10 @@ theorem IsLittleO.right_isBigO_add {f₁ f₂ : α → E'} (h : f₁ =o[l] f₂)
   ((h.def' one_half_pos).right_le_add_of_lt_one one_half_lt_one).isBigO
 #align asymptotics.is_o.right_is_O_add Asymptotics.IsLittleO.right_isBigO_add
 
+theorem IsLittleO.right_isBigO_add' {f₁ f₂ : α → E'} (h : f₁ =o[l] f₂) :
+    f₂ =O[l] (f₂ + f₁) :=
+  Trans.trans h.right_isBigO_add (add_comm _ _)
```
Comment (jcommelin) [inline Mathlib/Analysis/Asymptotics/Asymptotics.lean:2142]: Does this work? Untested...
```suggestion
  h.right_isBigO_add.trans (add_comm _ _)
```

File: Mathlib/Analysis/Asymptotics/Theta.lean [hunk 4]
```diff
@@ -325,8 +325,20 @@ alias ⟨IsTheta.of_const_mul_right, IsTheta.const_mul_right⟩ := isTheta_const
...
-lemma IsTheta.add_isLittleO {f₁ f₂ : α → E'}
-    (h : f₂ =o[l] f₁) : (f₁ + f₂) =Θ[l] f₁ :=
-  ⟨(isBigO_refl _ _).add_isLittleO h, by rw [add_comm]; exact h.right_isBigO_add⟩
+theorem IsLittleO.right_isTheta_add {f₁ f₂ : α → E'} (h : f₁ =o[l] f₂) :
+    f₂ =Θ[l] (f₁ + f₂) :=
+  ⟨h.right_isBigO_add, h.add_isBigO (isBigO_refl _ _)⟩
+
+theorem IsLittleO.right_isTheta_add' {f₁ f₂ : α → E'} (h : f₁ =o[l] f₂) :
+    f₂ =Θ[l] (f₂ + f₁) :=
+  Trans.trans h.right_isTheta_add (add_comm _ _)
```
Comment (jcommelin) [inline Mathlib/Analysis/Asymptotics/Theta.lean:334]: Idem
```suggestion
  h.right_isTheta_add.trans (add_comm _ _)
```

**Comment by jcommelin** [comment]
I'm not a big fan of using `'` to name a variant result... but adding `left`/`right` is maybe too long. :shrug: Maybe someone else has a good idea.

File: Mathlib/Analysis/Asymptotics/Asymptotics.lean (hunk 3 above)
Comment (llllvvuu) [reply Mathlib/Analysis/Asymptotics/Asymptotics.lean:2142]: Unfortunately not, since this is `IsBigO` trans ` Eq`. There is also no `IsBigO.trans_eq` lemma; instead I believe `Trans.trans` is using this instance: https://github.com/leanprover/lean4/blob/56d703db8eec777b813a198e2126115bda9d3a9b/src/Init/Prelude.lean#L1152-L1153

**Review by AlexKontorovich — APPROVED** [review]
This looks good to me!

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
